US06992087B2
Preparation of 5-bromo-3,6-diethyl-N-(8-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 3,6-diethyl-N-(8-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, CDCl3) δ) 7.23, 6.78, 5.32, 4.31, 3.71, 2.89-2.77, 2.50-2.35, 1.81-1.65, 1.32, 1.18; HRMS (FAB) calcd for C19H24BrN3O+H 390.1181, found 390.1172.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | 3,6-diethyl-N-(8-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCCC2=CC=CC(=C12)OC | C19H25N3O
product | 5-bromo-3,6-diethyl-N-(8-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1CCCC2=CC=CC(=C12)OC)CC | C19H24BrN3O
